US07820823B2
(3R)-3-[4-(2-Fluoro-4-nitro-phenyl)-piperazin-1-yl]-pyrrolidine-1-carboxylic Acid Tert-Butyl Ester
To a solution of 3.33 g (3R)-3-[4-(2-fluoro-4-nitro-phenyl)piperazin-1-yl]pyrrolidine-1-carboxylic acid allyl ester (8.8 mmol) in 60 ml THF were added 130 mg of bis (triphenylphosphine)-palladium(II) dichloride (0.088 mmol), 1.0 ml acetic acid (17.6 mmol), and 4.66 ml tributyl tinnhydride (17.6 mmol). The reaction was stirred at rt for 1 h and monitored by TLC. The suspension was diluted with 100 ml ether and a pale yellow solid precipitated. The solid was filtered, washed with ether and hexane and dried. The solid was diluted with 100 ml dichloromethane, 2.30 g BOC anhydride (MW: 218.25, 17.6 mmol) was added and the reaction stirred at RT over night and monitored by TLC. The reaction was diluted with dichloromethane, the org. layer washed with water and brine dried over Mg sulfate and filtered. The filtrate was evaporated. The residue was purified by chromatography, using ethyl acetate as eluent.

reactant | (3R)-3-[4-(2-fluoro-4-nitro-phenyl)piperazin-1-yl]pyrrolidine-1-carboxylic acid allyl ester | 8.8 mmol, 3.33 g | C(C=C)OC(=O)N1C[C@@H](CC1)N1CCN(CC1)C1=C(C=C(C=C1)[N+](=O)[O-])F | C18H23FN4O4
reactant | acetic acid | 17.6 mmol, 1.0 ml | C(C)(=O)O | C2H4O2
reactant | BOC anhydride | 17.6 mmol, 2.30 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
catalyst | bis (triphenylphosphine)-palladium(II) dichloride | 0.088 mmol, 130 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (3R)-3-[4-(2-Fluoro-4-nitro-phenyl)-piperazin-1-yl]-pyrrolidine-1-carboxylic Acid Tert-Butyl Ester | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)N1CCN(CC1)C1=C(C=C(C=C1)[N+](=O)[O-])F | C19H27FN4O4
